US08217177B2
tert-butyl (6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate
A 2-L round bottom flask equipped with a magnetic stirbar was charged with di(1H-imidazol-1-yl)methanone (121 g, 749 mmol) and acetonitrile (500 mL). The stirred slurry was cooled by immersing the flask in an ice bath. A solution of N-Boc glycine (125 g, 714 mmol) in acetonitrile (500 mL) was added via a 500-mL addition funnel over the course of 30-45 min. The mixture was aged for 1 h while a 5-L, 3-neck, round bottomflask equipped with a mechanical overhead stirrer and a thermocouple w/adapter was charged with 1-(6-chloropyridazin-3-yl)hydrazine (108 g, 749 mmol) and acetonitrile (900 mL) and cooled to <5 deg C. in an ice bath. The cold solution of the acylimidazole was then transferred via a polyethylene cannula into the thick suspension of the hydrazine over a period of 30-45 min). The ice bath was removed, and the mixture was allowed to warm. After 2.5 h of stirring, 4-methylbenzenesulfonic acid hydrate (143 g, 749 mmol) was added. The flask was then equipped with a heating mantle and a reflux condenser and was heated to reflux (82 deg C.) for 13 h, then cooled back to about 60 deg C. At this point, the warm solution was vacuum filtered through paper. The brown filtrate was then concentrated by rotary evaporation. The resulting thick yellow-brown slurry was stirred in an ice bath and diluted with ACN (about 100 mL). After stirring for 1 h, the solids were isolated by vacuum filtration, washed with ice-cold 1:1 ACN/H2O (2×150 mL) and air-dried on the filter until a freely flowing solid was obtained (159 g, 78.5% yield).

reactant | di(1H-imidazol-1-yl)methanone | 749 mmol, 121 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | N-Boc glycine | 714 mmol, 125 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 1-(6-chloropyridazin-3-yl)hydrazine | 749 mmol, 108 g | ClC1=CC=C(N=N1)NN | C4H5ClN4
reactant | polyethylene | C(C[*:2])[*:1]
reactant | hydrazine | NN | H4N2
reactant | 4-methylbenzenesulfonic acid hydrate | 749 mmol, 143 g | O.CC1=CC=C(C=C1)S(=O)(=O)O
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
solvent | acetonitrile | 900 mL | C(C)#N | C2H3N
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | tert-butyl (6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 78.5% yield | ClC=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C11H14ClN5O2
